US07652022B2
6-(4-Aminobenzyl)-pyrimidin-4-ylamine
A 4 N solution of HCl in dioxane (19.2 mL, 76.4 mmol, 30 equiv) is added to a solution of [4-(6-amino-pyrimidin-4-ylmethyl)-phenyl]-carbamic acid tert-butyl ester (770 mg, 2.56 mmol) in CH2Cl2 (23 mL), under an argon atmosphere. The resulting white suspension is stirred at rt for 1.5 h and concentrated in vacuo. To the residue is added a 2 M methanolic solution of ammonia (3.8 mL, 7.68 mmol, 3 equiv) and the resulting yellow solution is concentrated in vacuo. The crude product is purified by silica gel (90 g) column chromatography CH2Cl2/MeOH, 90/10, then 80/20). The title compound is obtained as a white solid: ES-MS: 201.0 [M+H]+; single peak at tR=2.00 min (System 2); Rf=0.20 (CH2Cl2/MeOH, 90/10).

reactant | HCl | Cl | ClH
reactant | dioxane | 76.4 mmol, 19.2 mL, 30 equiv | O1CCOCC1 | C4H8O2
reactant | [4-(6-amino-pyrimidin-4-ylmethyl)-phenyl]-carbamic acid tert-butyl ester | 2.56 mmol, 770 mg | C(C)(C)(C)OC(NC1=CC=C(C=C1)CC1=NC=NC(=C1)N)=O | C16H20N4O2
reactant | ammonia | 7.68 mmol, 3.8 mL, 3 equiv | N | H3N
solvent | CH2Cl2 | 23 mL | C(Cl)Cl | CH2Cl2
product | 6-(4-Aminobenzyl)-pyrimidin-4-ylamine | NC1=CC=C(CC2=CC(=NC=N2)N)C=C1 | C11H12N4
